US07714022B2
[Methyl-(4-nitro-benzoyl)-amino]-acetic acid methyl ester:
4-Nitro-benzoyl chloride (1.396 g; 7.52 mmol), methylamino-acetic acid methyl ester hydrochloride (1.264 g; 9.06 mmol) and triethyl-amine (2.40 mL; 17.2 mmol) were reacted in DCM (35 mL). After 2 days the r×n was washed with water (1×10 mL), 1 M HCl (2×10 mL), water (1×10 mL) and satd NaHCO3 (2×10 mL). After drying over MgSO4, filtration through silica with a 10:1 DCM:i-PrOH wash and concd, the product was purified by MPLC (silica; 0-->10% i-PrOH in DCM gradient) yielding a pale yellow-orange solid (1.394 g; 73%) as a mix of rotamers. 1H NMR (CDCl3; major rotamer) δ 8.31 (m, 2H), 7.66 (m, 2H), 4.31 (s, 2H), 3.82 (s, 3H), 3.03 (s, 3H).

reactant | 4-Nitro-benzoyl chloride | 7.52 mmol, 1.396 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | methylamino-acetic acid methyl ester hydrochloride | 9.06 mmol, 1.264 g | Cl.COC(CNC)=O
reactant | triethyl-amine | 17.2 mmol, 2.40 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | [Methyl-(4-nitro-benzoyl)-amino]-acetic acid methyl ester | COC(CN(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C)=O | C11H12N2O5
